US04880808
To a stirred solution of 50 parts of 3-(phenylazo)-2,4-pentanedione and 35 parts of ethanimidamide monohydrochloride in 711 parts of ethanol was added a solution of 8.5 parts of sodium in 126 parts of ethanol. After stirring overnight at room temperature, the precipitate was filtered off and the filtrate was stirred for 2 days at room temperature. The mixture was evaporated and the residue was diluted with a sodium hydroxide solution 10%. The separated aqueous layer was extracted with methylbenzene. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated with methylbenzene, yielding 7.5 parts (13.8%) of 4,6-dimethyl-5-(phenylazo)-2-pyridinamine as a residue (int. 95).

reactant | 3-(phenylazo)-2,4-pentanedione | C1(=CC=CC=C1)N=NC(C(C)=O)C(C)=O | C11H12N2O2
reactant | ethanimidamide monohydrochloride | Cl.C(C)(N)=N
reactant | sodium | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 4,6-dimethyl-5-(phenylazo)-2-pyridinamine | 13.8% | CC1=CC(=NC(=C1N=NC1=CC=CC=C1)C)N | C13H14N4
